US04122274
9-Ethyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one
Ethyl 2-cyano-3-(3-ethyl-2-pyridylamino)acrylate (10.0 g., 0.0408 mole) was added to a stirred mixture of aluminum azide in tetrahydrofuran at 0°. The aluminum azide had been prepared in situ in the usual manner from aluminum chloride (6.5 g., 0.0488 mole) and sodium azide (9.5 g., 0.1464 mole) in tetrahydrofuran (100 ml.). The mixture was stirred at 0° for 15 minutes and then heated under reflux for 19 hours. The mixture was cooled, diluted with water, and acidified with concentrated hydrochloric acid (20 ml.). The mixture was filtered to give the title compound (2.7 g., 27%), m.p. 285°-288°. The product was recrystallized from N,N-dimethylformamide with charcoal treatment to give analytical material, m.p. 288°-290° (decomp).

reactant | Ethyl 2-cyano-3-(3-ethyl-2-pyridylamino)acrylate | 0.0408 mole, 10.0 g | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1CC | C13H15N3O2
reactant | aluminum azide | [N-]=[N+]=[N-].[Al+3].[N-]=[N+]=[N-].[N-]=[N+]=[N-]
reactant | aluminum chloride | 0.0488 mole, 6.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 0.1464 mole, 9.5 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 9-Ethyl-3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 2.7 g, 27% | C(C)C1=CC=CN2C1=NC=C(C2=O)C2=NN=NN2 | C11H10N6O
